US04661635
A suspension of 100 g (0.52 moles) of 3-nitrocinnamic acid in 800 ml glacial acetic acid and 100 ml of methanol was hydrogenated at 50 pounds per square inch over 2.5 g 10% palladium on carbon until four equivalents of hydrogen were absorbed. The catalyst was filtered off, the filtrates combined and the solvent was concentrated in vacuo leaving a brown glass of 3-aminobenzenepropanoic acid. To this was added 1 liter of ethanolic hydrogen chloride which was heated to reflux for five hours. The solvent was evaporated in vacuo leaving a purple solid. Recrystallization from ethyl acetate yielded 88.0 g (74%) of ethyl 3-aminobenzenepropanoate hydrochloride, mp 132°-135° C.

reactant | 3-nitrocinnamic acid | 0.52 moles, 100 g | [N+](=O)([O-])C=1C=C(C=CC(=O)O)C=CC1 | C9H7NO4
reactant | hydrogen | four equivalents | [H][H] | H2
solvent | acetic acid | 800 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 2.5 g | [Pd] | Pd
product | 3-aminobenzenepropanoic acid | NC=1C=C(C=CC1)CCC(=O)O | C9H11NO2
